* C:\Users\Michael\Documents\projects\xplr\BatteryHealthMonitor\schematic\simulation\sim.asc
R1 N001 N004 300k
R2 N004 N003 300k
R3 N005 N002 300k
R4 0 N005 300k
XU1 N005 N004 N002 0 N001 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
V1 N003 0 5
V2 N002 0 8.4
R§input_pin N001 0 2000k
.dc V2 8.4 6.4 .01
.lib UniversalOpAmp1.lib
.backanno
.end
